US04107307
Preparation of 3,8-Dimethyl-6-phenyl-imidazo[1,5-d]-as-triazin-4(3H)-thione
8-Methyl-6-phenyl-imidazo[1,5-d]-as-triazin-4(3H)-thione (3.76 g, 0.014 mole) is dissolved in aqueous sodium bicarbonate (125 ml, 6.7%). Dimethyl sulfate (1.85 g, 0.0147 mole) is added at room temperature and the reaction mixture stirred overnight (appr. 15-16 hours). The precipitated solid is collected by filtration and washed thoroughly with water. The dried solid (3.84 g) is extracted with benzene. The benzene solution is evaporated to dryness, and the residual red solid obtained is extracted with hexane. Evaporation of the hexane solution yields a tan solid (0.25 g). Recrystallization of this tan solid from methanol yields pale yellow crystals, m.p. 194°-195° C.

reactant | 8-Methyl-6-phenyl-imidazo[1,5-d]-as-triazin-4(3H)-thione | 0.014 mole, 3.76 g | CC=1N=C(N2C(NN=CC21)=S)C2=CC=CC=C2 | C12H10N4S
reactant | Dimethyl sulfate | 0.0147 mole, 1.85 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | sodium bicarbonate | 125 ml | C([O-])(O)=O.[Na+]
product | 3,8-Dimethyl-6-phenyl-imidazo[1,5-d]-as-triazin-4(3H)-thione | 0.25 g | CN1N=CC=2N(C1=S)C(=NC2C)C2=CC=CC=C2 | C13H12N4S
